US04123613
A mixture of 10 g of 10-methoxy-1,6-dimethylergoline-8β-methanol, 12.4 ml of triethylamine, and 12.6 g of tosyl chloride in 200 ml of methylene chloride is refluxed 5 hr. The solution is washed first with 10% Na2CO3 and then with water, the solvent is evaporated in vacuo, and the residue is crystallized from methanol to give 11 g of 10-methoxy-1,6-dimethylergoline-8β-methanol tosylate; m.p. 169° C.

reactant | 10-methoxy-1,6-dimethylergoline-8β-methanol | 10 g | CO[C@@]12C=3C=CC=C4N(C=C(C[C@H]1N(C[C@@H](C2)CO)C)C34)C | C18H24N2O2
reactant | triethylamine | 12.4 ml | C(C)N(CC)CC | C6H15N
reactant | tosyl chloride | 12.6 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 10-methoxy-1,6-dimethylergoline-8β-methanol tosylate | 11 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC[C@H]1CN([C@@H]2CC3=CN(C4=CC=CC([C@]2(C1)OC)=C34)C)C | C25H30N2O4S
